* /home/ramachandra14519/eSim-Workspace/adc/adc.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: Thu 03 Mar 2022 05:01:33 AM UTC

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
U2  Net-_U2-Pad1_ Net-_U2-Pad2_ Net-_U2-Pad3_ Net-_U2-Pad4_ Net-_U2-Pad5_ Net-_U2-Pad6_ Net-_U2-Pad7_ Net-_U2-Pad8_ Net-_U2-Pad9_ Net-_U2-Pad10_ Net-_U2-Pad11_ prior		
U3  Net-_U3-Pad1_ Net-_U3-Pad2_ Net-_U3-Pad3_ Net-_U3-Pad4_ Net-_U3-Pad5_ Net-_U3-Pad6_ Net-_U3-Pad7_ GND Net-_U2-Pad1_ Net-_U2-Pad2_ Net-_U2-Pad3_ Net-_U2-Pad4_ Net-_U2-Pad5_ Net-_U2-Pad6_ Net-_U2-Pad7_ Net-_U2-Pad8_ adc_bridge_8		
U4  Net-_U2-Pad9_ Net-_U2-Pad10_ Net-_U2-Pad11_ b2 b1 b0 dac_bridge_3		
R4  Net-_R3-Pad2_ Net-_R4-Pad2_ 1k		
R5  Net-_R4-Pad2_ Net-_R5-Pad2_ 1k		
R3  Net-_R2-Pad2_ Net-_R3-Pad2_ 1k		
R2  +8V Net-_R2-Pad2_ 1k		
R6  Net-_R5-Pad2_ Net-_R6-Pad2_ 1k		
R7  Net-_R6-Pad2_ Net-_R7-Pad2_ 1k		
R8  Net-_R7-Pad2_ Net-_R8-Pad2_ 1k		
X2  ? Net-_R3-Pad2_ in -5V ? Net-_U3-Pad2_ +5V ? lm_741		
X3  ? Net-_R4-Pad2_ in -5V ? Net-_U3-Pad3_ +5V ? lm_741		
X4  ? Net-_R5-Pad2_ in -5V ? Net-_U3-Pad4_ +5V ? lm_741		
X5  ? Net-_R6-Pad2_ in -5V ? Net-_U3-Pad5_ +5V ? lm_741		
X7  ? Net-_R8-Pad2_ in -5V ? Net-_U3-Pad7_ +5V ? lm_741		
R9  Net-_R8-Pad2_ GND 1k		
X6  ? Net-_R7-Pad2_ in -5V ? Net-_U3-Pad6_ +5V ? lm_741		
v1  in GND sine		
U1  in plot_v1		
U7  b2 plot_v1		
U6  b1 plot_v1		
U5  b0 plot_v1		
X1  ? Net-_R2-Pad2_ in -5V ? Net-_U3-Pad1_ +5V ? lm_741		

.end
