* /home/ramachandra14519/esim-workspace/adc/adc.cir

.include lm_741.sub
* u2  net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ net-_u2-pad9_ net-_u2-pad10_ net-_u2-pad11_ prior
* u3  net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ gnd net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ adc_bridge_8
* u4  net-_u2-pad9_ net-_u2-pad10_ net-_u2-pad11_ b2 b1 b0 dac_bridge_3
r4  net-_r3-pad2_ net-_r4-pad2_ 1k
r5  net-_r4-pad2_ net-_r5-pad2_ 1k
r3  net-_r2-pad2_ net-_r3-pad2_ 1k
r2  +8v net-_r2-pad2_ 1k
r6  net-_r5-pad2_ net-_r6-pad2_ 1k
r7  net-_r6-pad2_ net-_r7-pad2_ 1k
r8  net-_r7-pad2_ net-_r8-pad2_ 1k
x2 ? net-_r3-pad2_ in -5v ? net-_u3-pad2_ +5v ? lm_741
x3 ? net-_r4-pad2_ in -5v ? net-_u3-pad3_ +5v ? lm_741
x4 ? net-_r5-pad2_ in -5v ? net-_u3-pad4_ +5v ? lm_741
x5 ? net-_r6-pad2_ in -5v ? net-_u3-pad5_ +5v ? lm_741
x7 ? net-_r8-pad2_ in -5v ? net-_u3-pad7_ +5v ? lm_741
r9  net-_r8-pad2_ gnd 1k
x6 ? net-_r7-pad2_ in -5v ? net-_u3-pad6_ +5v ? lm_741
v1  in gnd sine(3 0 0 0 0)
* u1  in plot_v1
* u7  b2 plot_v1
* u6  b1 plot_v1
* u5  b0 plot_v1
x1 ? net-_r2-pad2_ in -5v ? net-_u3-pad1_ +5v ? lm_741
a1 [net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ ] [net-_u2-pad9_ net-_u2-pad10_ net-_u2-pad11_ ] u2
a2 [net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ gnd ] [net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ ] u3
a3 [net-_u2-pad9_ net-_u2-pad10_ net-_u2-pad11_ ] [b2 b1 b0 ] u4
* Schematic Name:                             prior, NgSpice Name: prior
.model u2 prior(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_3, NgSpice Name: dac_bridge
.model u4 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 1e-00 5e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(in)
plot v(b2)
plot v(b1)
plot v(b0)
.endc
.end
